US07691902B2
To a solution of 1-benzo[1,3]dioxol-5-yl-cyclopropanecarbonyl chloride (0.97 mmol) in CH2Cl2 (3 mL) at ambient temperature was added a solution of 3′-amino-N-methylbiphenyl-4-sulfonamide (0.25 g, 0.97 mmol), Et3N (0.68 mL, 4.9 mmol), DMAP (0.050 g, 0.058 mmol), and CH2Cl2 (1 mL) dropwise. The mixture was allowed to stir for 16 h before it was diluted with CH2Cl2 (50 mL). The solution was washed with 1N HCl (2×25 mL), sat. aq. NaHCO3 (2×25 mL), then brine (25 mL). The organics were dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by column chromatography (5-25% EtOAc/hexanes) to provide 1-benzo[1,3]dioxol-5-yl-N-[3-[4-(methylsulfamoyl)phenyl]phenyl]-cyclopropane-1-carboxamide as a white solid. ESI-MS m/z calc. 450.5, found 451.3 (M+1)+. Retention time of 3.13 minutes.

reactant | 1-benzo[1,3]dioxol-5-yl-cyclopropanecarbonyl chloride | 0.97 mmol | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)Cl | C11H9ClO3
reactant | 3′-amino-N-methylbiphenyl-4-sulfonamide | 0.97 mmol, 0.25 g | NC=1C=C(C=CC1)C1=CC=C(C=C1)S(=O)(=O)NC | C13H14N2O2S
reactant | Et3N | 4.9 mmol, 0.68 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.058 mmol, 0.050 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 1-benzo[1,3]dioxol-5-yl-N-[3-[4-(methylsulfamoyl)phenyl]phenyl]-cyclopropane-1-carboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=CC(=CC=C2)C2=CC=C(C=C2)S(NC)(=O)=O | C24H22N2O5S
